US08957068B2
(S)-1-(5-phenyl-1,3,4-thiadiazol-2-yl)ethanamine
To a solution of (S)-tert-butyl (1-(5-phenyl-1,3,4-thiadiazol-2-yl)ethyl)carbamate (110 mg, 0.4 mmol, in 5 ml of DCM) was added 1 ml of TFA, the reaction mixture was stirred at room temperature for 3 hours, the solvent was removed to yield the desired product (52 mg) in 66.8% yield. LCMS m/z 206.0 (M+H)+ RT=0.97 min.

reactant | (S)-tert-butyl (1-(5-phenyl-1,3,4-thiadiazol-2-yl)ethyl)carbamate | 0.4 mmol, 5 ml, 110 mg | C1(=CC=CC=C1)C1=NN=C(S1)[C@H](C)NC(OC(C)(C)C)=O | C15H19N3O2S
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-1-(5-phenyl-1,3,4-thiadiazol-2-yl)ethanamine | 52 mg, 66.8% yield | C1(=CC=CC=C1)C1=NN=C(S1)[C@H](C)N | C10H11N3S
